US08039458B2
(4-Fluoro-2-(5-methyl-1H-1,2,4-triazol-1-yl)phenyl)methanamine hydrochloride.
A solution of 4-fluoro-2-(5-methyl-1H-1,2,4-triazol-1-yl)benzonitrile (2.9 g, 14 mmol) in EtOH (100 mL) was mixed with 1N—HCl (15 mL) and 10% Pd—C (0.7 g, Aldrich). This mixture was hydrogenated in a Parr shaker at 45-55 psi of hydrogen for 20 h. The catalyst was filtered over Celite®, and washed with EtOH. The filtrate was concentrated, and the residue triturated with EtOH-Et2O to obtain 3.17 g (13 mmol, 91% yield) of the title compound as an off-white powder: HPLC 0.47 min (AP 100% at 254 nm); LC/MS m/z 207 (M+H); 1H NMR (DMSO-d6, 300 MHz) δ ppm 2.40 (3H, s, CH3), 3.77 (2H, d, J=5.5 Hz, NCH2), 7.52-7.62 (1H, m), 7.66 (1H, dd, J=9.2, 2.6 Hz), 7.87 (1H, t, J=7 Hz), 8.14 (1H, s), 8.47 (3H, brs, NH3+).

reactant | 4-fluoro-2-(5-methyl-1H-1,2,4-triazol-1-yl)benzonitrile | 14 mmol, 2.9 g | FC1=CC(=C(C#N)C=C1)N1N=CN=C1C | C10H7FN4
reactant | HCl | 15 mL | Cl | ClH
reactant | hydrogen | [H][H] | H2
solvent | EtOH | 100 mL | CCO | C2H6O
catalyst | Pd—C | 0.7 g | [Pd] | Pd
product | (4-Fluoro-2-(5-methyl-1H-1,2,4-triazol-1-yl)phenyl)methanamine hydrochloride | 13 mmol, 3.17 g, 91% yield | Cl.FC1=CC(=C(C=C1)CN)N1N=CN=C1C | InChI=1S/C10H11FN4.ClH/c1-7-13-6-14-15(7)10-4-9(11)3-2-8(10)5-12;/h2-4,6H,5,12H2,1H3;1H
